US06395766B1
6,6-Dimethyl-3-ethyl-1-(3-fluorophenyl)-4,5,6,7-tetrahydroindol-4-one
6,6-Dimethyl-3-ethyl-4,5,6,7-tetrahydro-1H-indol-4-one (50 mg, 0.26 mmol), copper acetate (71 mg, 0.39 mmol), 3-fluorophenyl boronic acid (73 mg, 0.52 mmol) and triethylamine (73 μL, 0.52 mmol) and triethylamine (73 μL, 0.52 mmol) in DCM (1 mL) was stirred at room temperature for 48 h. The crude reaction mixture was poured onto a bond elut tube (Anachem 1225-6034 10 g/60 mL) and eluted using isohexane : EtOAc (100:0→5:1) to afford a yellow solid. The solid was triturated in ether to afford the title compound (15 mg, 20%) as a colourless solid. 1H NMR (360 MHz, CDCl3) δ 1.08 (6H,s), 1.22 (3H,t, J=7.4Hz), 2.36 (2H,s), 2.62 (2H,s), 2.81 (2H,q, J=7.4 Hz), 6.57 (1H,s), 7.02-7.11 (3H,m), 7.41-7.45 (1H,m). MS (ES+) 286 (M+1).

reactant | 6,6-Dimethyl-3-ethyl-4,5,6,7-tetrahydro-1H-indol-4-one | 0.26 mmol, 50 mg | CC1(CC(C=2C(=CNC2C1)CC)=O)C | C12H17NO
reactant | 3-fluorophenyl boronic acid | 0.52 mmol, 73 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | triethylamine | 0.52 mmol, 73 μL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.52 mmol, 73 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 0.39 mmol, 71 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6,6-Dimethyl-3-ethyl-1-(3-fluorophenyl)-4,5,6,7-tetrahydroindol-4-one | 15 mg, 20% | CC1(CC(C=2C(=CN(C2C1)C1=CC(=CC=C1)F)CC)=O)C | C18H20FNO
